Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],5.21827916445
[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.49523748809
[H:1][C:2]#[C:4][C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-4.04971635442
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[H:11],4.54844523929
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:8]([H:9])[H:10].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:11]([H:12])[H:13],6.25729379076
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],1.4133658689200002
[C:4](#[C:6][H:7])[C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:5]>>[H:1][C:2]/[C:3]([C:4]([H:5])=[C:6][H:7])=[C:8](/[H:9])[O:10][H:11],1.33725206081
[C:7]([H:8])([H:9])[H:16].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.06398266073
[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.560538515259999
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.34159595818
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],5.14010639538
[C:13]([H:14])([H:15])[H:16].[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.20246224008
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.76324010367
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7],3.34428954689
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])=[C:4][C@@:5]([H:6])([C:7]#[C:8][H:9])[C:11]([H:12])([H:13])[H:14],2.00024321987
[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1],5.69101816217
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],1.03633831331
[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][C:4][H:5])[C:9]([H:10])([H:11])[H:12].[C:6]([H:7])[H:8],7.475937224369999
[H:1][C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.10715538708
[C:8]([H:9])[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-7.19169953632
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],4.05482845323
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[O:13][H:14],4.45132539204
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])=[C:6]([H:7])[H:8].[H:5],1.52170124628
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])[O:10][H:11],1.65734960584
[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.58185238456
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7](=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.44860998459
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[C:9][H:10].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[H:8],5.239735984569999
